* ACF2101M (switched integrator) MULTIPLE POLE/ZERO MACROMODEL

*

* Created 2-14-92 BCB

*

* REV.B 3/21/92 BCB input bias current correction circuitry added

*

*  ------------------------------------------------------------------------ 

* |  NOTICE: THE INFORMATION PROVIDED HEREIN IS BELIEVED TO BE RELIABLE;   |

* |  HOWEVER; BURR-BROWN ASSUMES NO RESPONSIBILITY FOR INACCURACIES OR     |

* |  OMISSIONS.  BURR-BROWN ASSUMES NO RESPONSIBILITY FOR THE USE OF THIS  |

* |  INFORMATION, AND ALL USE OF SUCH INFORMATION SHALL BE ENTIRELY AT     |

* |  THE USER'S OWN RISK.  NO PATENT RIGHTS OR LICENSES TO ANY OF THE      |

* |  CIRCUITS DESCRIBED HEREIN ARE IMPLIED OR GRANTED TO ANY THIRD PARTY.  |

* |  BURR-BROWN DOES NOT AUTHORIZE OR WARRANT ANY BURR-BROWN PRODUCT FOR   |

* |  USE IN LIFE-SUPPORT DEVICES AND/OR SYSTEMS.                           |

*  ------------------------------------------------------------------------ 

* |-------------------------------------------------------------|

* |  This macro model is being supplied as an aid to            |

* |  circuit designs.  While it reflects reasonably close       |

* |  similarity to the actual device in terms of performance,   |

* |  it is not suggested as a replacement for breadboarding.    |

* |  Simulation should be used as a forerunner or a supplement  |

* |  to traditional lab testing.                                |

* |                                                             |

* |  Neither this library nor any part may be copied without    |

* |  the express written consent of Burr-Brown Corporation.     |

* |                                                             |

* |  The users should carefully note the following factors      |

* |  regarding this model.                                      |

* |                                                             |

* |-------------------------------------------------------------|

* 

* NOTES : 

*    1.  The transient time for the input to the switches (HOLD, 

*        RESET, and SELECT) should be programmed to 6V/usec.  

*        Complying with this requirment will give you greater

*        success in convergence during transient analysis and

*        a more accurate simulation of the effect of the 200nsec

*        switching speed of the actual switching transistors in 

*        the ACF2101.  This is easily implemented with the PULSE

*        command in Spice.  If your input signal to the switches

*        is faster than recommended above, the R-C, low-pass filter

*        on the input of the switch will slow the signal down some-

*        what, however not enough to comply with the data sheet stated

*        switching speeds of 200nsec.

*    2.  To insure proper operation, always establish the initial 

*        bias point for the transient analysis with RESET and 

*        HOLD equal to the potential at COM

*.

*

*                COMMON

*                |  SWITCH IN

*                |  |  IN

*                |  |  |  CAPACITOR

*                |  |  |  |  OUTPUT

*                |  |  |  |  |  SWITCH OUT

*                |  |  |  |  |  |  SWITCH COMMON

*                |  |  |  |  |  |  |  RESET

*                |  |  |  |  |  |  |  |  HOLD

*                |  |  |  |  |  |  |  |  |  SELECT

*                |  |  |  |  |  |  |  |  |  |  POSITIVE SUPPLY

*                |  |  |  |  |  |  |  |  |  |  |  NEGATIVE SUPPLY

*                |  |  |  |  |  |  |  |  |  |  |  |  GROUND

*                |  |  |  |  |  |  |  |  |  |  |  |  |

.SUBCKT ACF2101M 3  31 2  37 6  32 33 36 34 35 7  4  30

* Amp input stage (2nd pole @ 35M Hz)


J11 15 2 14 JX

J12 16 13 14 JX

C12 15 16 18.2E-12

R13 15 7 796

R14 16 7 796

ISS 14 4 1.11E-3

VOS 13 3 0.5E-3

G1 2 30 POLY(3) (15,2) (14,2) (30,2) 0 1E-12 1E-12 1E-12

G2 13 30 POLY(3) (16,13) (14,13) (30,13) 0 1E-12 1E-12 1E-12



* Amp gain stage (130dB) and first pole (@ 4.20K HZ)

*

R27 7 21 2.45E9

R28 4 21 2.45E9

C22 7 21 100E-12

C23 4 21 100E-12

G21 7 21 POLY(1) 15 16 1.751E-3 1.256E-3

G22 21 4 POLY(1) 16 15 1.751E-3 1.256E-3

V21 22 3 0.409

V22 23 4 1.885

D21 21 22 DX

D22 23 21 DX



* Amp correction current and output stage

*

IPS 7 30 9E-3

RPS 7 30 100E3

R9 7 71 100E3

R10 4 71 100E3

D91 21 6 DX

D92 6 21 DX

D93 7 94 DX

D94 7 95 DX

D95 4 94 DY

D96 4 95 DY

G91 7 6 21 7 .020387

G92 4 6 21 4 .020387

G95 94 4 6 21 .020387

G96 95 4 21 6 .020387

R91 7 6 49.051

R92 4 6 49.051



*CINT 37 6 CC 100E-12
*jg, 27/6/2000: syntax for unknown capacitor parameter corrected. 

CINT 37 6 100E-12


* Switches

*SH1 31 2 34 30 SWH
*SH2 31 2 31 30 SWT
*SR 2 6 36 30 SWH
*SS 6 32 35 30 SWS
*SC 3 33 35 30 SWS
*jg, 27/6/2000: syntax for switch parameters corrected. 

SH1 31 2 34 30 SW
SH2 31 2 31 30 SW
SR 2 6 36 30 SW
SS 6 32 35 30 SW
SC 3 33 35 30 SW

* Models

*

.MODEL JX NJF(BETA=.788E-3 VTO=-2 IS=5E-14)
.MODEL DX D(IS=1E-15)
.MODEL DY D(IS=1E-15  BV=50)

*.MODEL SWH VSWITCH(RON=1000G ROFF=1.5K VON=2 VOFF=0.8)
*.MODEL SWS VSWITCH(RON=1000G ROFF=250 VON=2 VOFF=0.8)
*.MODEL SWT VSWITCH(RON=1000G ROFF=10 VON=0.45 VOFF=0.55)
*.MODEL CC CAP(VC1=25E-6 TC1=-25E-6)
*jg, 27/6/2000: model syntax for switch and unknown capacitor parameters corrected. 

.MODEL SW SW(RON=1000G ROFF=1.5K VT=2 VH=0.8)
.MODEL SW SW(RON=1000G ROFF=250 VT=2 VH=0.8)
.MODEL SW SW(RON=1000G ROFF=10 VT=0.45 VH=0.55)

.ENDS
