*  AD1580 Spice Macro-model   8/96, Rev A
*
*  Copyright 1996 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.
* Use of this model indicates your acceptance with
* the terms and provisions in the License Statement.
*
* Node assignments
*              zener diode cathode
*                |   zener diode anode
*                |   | 
*                |   | 
*                |   | 
*                |   | 
.SUBCKT AD1580   1   8
*.SUBCKT AD1580   1   8   2   3   4   5   6   7 
*JJ 2-5-2000: Removed extra internal nodes from the subckt header

r1 1 2 13.0k
r2 2 3 21k
r3 2 4 105k 
r4 3 5 2.73k
c1 4 6 10e-12
q1 7 3 8 qn1 
q2 4 5 8 qn2
q3 8 6 1 qp1
vic 5 7 0
f1 1 8 vic 0.8
g1 6 8 4 3 2e-4

.model qn1 npn(bf=100 vaf=100)
.model qn2 npn(bf=100 vaf=100)
.model qp1 pnp(bf=50k vaf=100)

.ends ad1580
